US05488055
To a stirred solution of N-benzyl-N-(4-hydroxycyclohexyl methyl)amine (8.5 g, 0.039 mol) in methanol (300 ml) under N2 was added ammonium formate (9.8 g, 0.0155 mol), followed by 10% palladium on carbon (1.0 g). The reaction mixture was refluxed for 3 hours, cooled to room temperature and filtered. The filtrate was evaporated to dryness and the residue was dissolved in CH2Cl2, filtered and the filtrate was evaporated to afford 1.3 g of 4-hydroxycyclohexylmethylamine.

reactant | N-benzyl-N-(4-hydroxycyclohexyl methyl)amine | 0.039 mol, 8.5 g | C(C1=CC=CC=C1)NCC1CCC(CC1)O | C14H21NO
reactant | ammonium formate | 0.0155 mol, 9.8 g | C(=O)[O-].[NH4+]
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 4-hydroxycyclohexylmethylamine | 1.3 g | OC1CCC(CC1)CN | C7H15NO
